US05767131
5-(5-Azidopentanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione was heated with 3-hydroxypropionitrile (2.42 g, 34.0 mmol) at 80° C. until no more CO2 was released. After cooling to room temperature, the mixture was diluted with 150 ml of 2-propanol, and 4-nitrobenzaldehyde (4.60 g, 30.3 mmol), piperidine (130 mg, 1.50 mmol) and acetic acid (90 mg, 1.50 mmol) were added. The mixture was stirred at room temperature for 48 hrs. The product, 7-azido-2-[(4-nitrophenyl)methylene]-3-oxoheptanoicacid2-cyanoethyl ester was obtained as a pale-yellow oil (5.73 g, 51% yield) after chromatography (SiO2, Hexane: AcOEt, 2:1).

reactant | 5-(5-Azidopentanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | N(=[N+]=[N-])CCCCC(=O)C1C(OC(OC1=O)(C)C)=O | C11H15N3O5
reactant | 3-hydroxypropionitrile | 34.0 mmol, 2.42 g | OCCC#N | C3H5NO
reactant | CO2 | C(=O)=O | CO2
reactant | 4-nitrobenzaldehyde | 30.3 mmol, 4.60 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | piperidine | 1.50 mmol, 130 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.50 mmol, 90 mg | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 150 ml | CC(C)O | C3H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | Hexane | CCCCCC | C6H14
product | 7-azido-2-[(4-nitrophenyl)methylene]-3-oxoheptanoicacid2-cyanoethyl ester | C(#N)CCOC(C(C(CCCCN=[N+]=[N-])=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H17N5O5
